US08563583B2
B. 4-((4-chlorophenyl)-ethynyl)-1-(4-(2-hydroxy-2-methylpropoxy)-3-methoxyphenyl)pyridin-2(1H)-one
A mixture of 4-chloro-1-(4-(2-hydroxy-2-methylpropoxy)-3-methoxyphenyl)pyridin-2(1H)-one Part D of Procedure 9 (100 mg, 0.31 mmol), tributyl((4-chlorophenyl)ethynyl)stannane Part A (237 mg, 0.56 mmol), copper (I) iodide (17.6 mg, 0.09 mmol), and PalladiumTetrakis (54 mg, 0.05 mmol) in DMF (1.5 mL) was stirred under nitrogen at 70° C. overnight. The reaction was diluted with DCM, filtered, washed with 1N HCl, sat. NaHCO3, dried (MgSO4), and concentrated. The residue was purified using ISCO flash chromatography (silica gel/hexanes/ethyl acetate 100:0 to 0:100 gradient). The product was repurified using HPLC (Phen Luna Axia C18 5μ 10:90:0.1 to 90:100.1 MeOH—H2O-TFA) to afford the desired product 4-((4-chlorophenyl)ethynyl)-1-(4-(2-hydroxy-2-methylpropoxy)-3-methoxyphenyepyridin-2(1H)-one F-4 (90 mg, 0.21 mmol, 66.7% yield) as a light yellow solid. LC/MS 424 (M+H)+, tR 1.00 min (method 5). 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 7.49-7.54 (2H, m), 7.37-7.44 (3H, m), 6.96-7.02 (2H, m), 6.93 (1H, d, J=2.26 Hz), 6.89 (1H, dd), 6.50 (1H, d, Hz), 3.88 (5H, s), 1.38 (6H, s)

reactant | 4-chloro-1-(4-(2-hydroxy-2-methylpropoxy)-3-methoxyphenyl)pyridin-2(1H)-one | ClC1=CC(N(C=C1)C1=CC(=C(C=C1)OCC(C)(C)O)OC)=O | C16H18ClNO4
reactant | tributyl((4-chlorophenyl)ethynyl)stannane | C(CCC)[Sn](C#CC1=CC=C(C=C1)Cl)(CCCC)CCCC
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
solvent | DCM | C(Cl)Cl | CH2Cl2
catalyst | copper (I) iodide | 0.09 mmol, 17.6 mg | [Cu]I
catalyst | PalladiumTetrakis | 0.05 mmol, 54 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-((4-chlorophenyl)-ethynyl)-1-(4-(2-hydroxy-2-methylpropoxy)-3-methoxyphenyl)pyridin-2(1H)-one | 66.7% yield | ClC1=CC=C(C=C1)C#CC1=CC(N(C=C1)C1=CC(=C(C=C1)OCC(C)(C)O)OC)=O | C24H22ClNO4
